US04057622
23.5 gm (0.25 mol) of N-vinylimidazole and 179.75 gm (0.75 mol) of lauryl acrylate were dissolved in 480 gm of toluene. 4 gm of dibenzoylperoxide were added as a catalyst to the solution obtained. The reaction mixture was agitated for 6 hours at 60° C. After the reaction had been completed, the solvent was distilled off and the product was washed a few times with methanol. 162 gm, that is 80% of theory, of N-vinylimidazole/lauryl acrylate copolymer (1:3) were obtained.

reactant | N-vinylimidazole | 0.25 mol, 23.5 gm | C(=C)N1C=NC=C1 | C5H6N2
reactant | lauryl acrylate | 0.75 mol, 179.75 gm | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
reactant | dibenzoylperoxide | 4 gm | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | toluene | 480 gm | C1(=CC=CC=C1)C | C7H8
product | N-vinylimidazole lauryl acrylate | C(=C)N1C=NC=C1.C(C=C)(=O)OCCCCCCCCCCCC | InChI=1S/C15H28O2.C5H6N2/c1-3-5-6-7-8-9-10-11-12-13-14-17-15(16)4-2;1-2-7-4-3-6-5-7/h4H,2-3,5-14H2,1H3;2-5H,1H2
